US09102688B2
3-Methyl-N-quinolin-8-yl-benzenesulfonamide (Example Compound 19)
In the similar fashion using route 14 general procedure 27, 8-aminoquinoline (200 mg, 1.38 mmol), m-toluenesulfonyl chloride (260 mg, 1.3 mmol) and DMAP (cat.) gave the title compound (250 mg, 60%) after purification by column chromatography with DCM as the eluent.

reactant | 8-aminoquinoline | 1.38 mmol, 200 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | m-toluenesulfonyl chloride | 1.3 mmol, 260 mg | C1(=CC(=CC=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-Methyl-N-quinolin-8-yl-benzenesulfonamide | 250 mg, 60% | CC=1C=C(C=CC1)S(=O)(=O)NC=1C=CC=C2C=CC=NC12 | C16H14N2O2S
